US07122665B2
As shown in Scheme I above, to a solution of 2-[2-(pyridin-2-yloxy)-ethoxy]-6-hydrazino-4-morphlinopyrimidine (4.98 g, 15.00 mmol, 1.00 equiv.) in 40 mL HOAc was added NaNO2 (1.553 g, 22.50 mmol, 1.50 equiv.) in six portions over a period of 1 hour. The reaction mixture was stirred at room temperature for 1 hour, and subjected to usual workup to yield 6-azido-2-[2-(pyridin-2-yloxy)-ethoxy]-4-morphlinopyrimidine as green viscous oil (5.0 g, 14.57 mmol, 97% yield). This oil was dissolved in 80 mL THF, and subjected to hydrogenation in the presence of 10% Pd on carbon (0.775 g of 10% Pd/C, 0.73 mmol, 0.05 equiv.) to yield 6-amino-2-[2-(pyridin-2-yloxy)-ethoxy]-4-morphlinopyrimidine as light yellow solid (4.25 g, 13.4 mmol, 89% total yield).

reactant | 2-[2-(pyridin-2-yloxy)-ethoxy]-6-hydrazino-4-morphlinopyrimidine | 15.00 mmol, 4.98 g, 1.00 equiv. | N1=C(C=CC=C1)OCCOC1=NC(=CC(=N1)N1CCOCC1)NN | C15H20N6O3
reactant | NaNO2 | 22.50 mmol, 1.553 g, 1.50 equiv. | N(=O)[O-].[Na+]
solvent | HOAc | 40 mL | CC(=O)O | C2H4O2
product | 6-azido-2-[2-(pyridin-2-yloxy)-ethoxy]-4-morphlinopyrimidine | 14.57 mmol, 5.0 g, 97% yield | N(=[N+]=[N-])C1=CC(=NC(=N1)OCCOC1=NC=CC=C1)N1CCOCC1 | C15H17N7O3
